### PR TITLE
[Merged by Bors] - feat(RingTheory.MvPowerSeries.LinearTopology): a linear topology on the ring of power series

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
- `MvPowerSeries.basis`: the ideals of the ring of multivariate power series
all coefficients the exponent of which is smaller than some bound vanish.

- `MvPowerSeries.isLinearTopology` : if `R` has a linear topology,
then the product topology on `MvPowerSeries σ R` is a linear topology,
as witnessed by the ideals from `MvPowerSeries.basis` which form a basis of neighborhoods of `0`
consisting of two-sided ideals.

This applies in particular when `R` has the discrete topology.

Co-authored-by: @mariainesdff 

---

- [x] depends on: #14990 
- [x] depends on: #14866 
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean [hunk 1]
```diff
@@ -0,0 +1,203 @@
...
+        simp only [← coeff_apply R f e]
+        apply biInter_subset_of_mem he
+        apply hJD
+        rw [mem_coe, mem_basis_iff] at hf
+        exact hf e (Finset.le_sup (f := id) (hD.mem_toFinset.mpr he))
+    set s := ⋂ i ∈ D, t i
+    rw [← (IsLinearTopology.hasBasis_twoSidedIdeal (R := R)).mem_iff']
+    exact (Filter.biInter_mem hD).mpr fun i a ↦ ht i
+  · rintro ⟨Jd, hJd_mem_nhds, hJd⟩
+    exact Filter.sets_of_superset _ (basis_mem_nhds_zero ⟨⟨Jd.1, hJd_mem_nhds⟩,Jd.2⟩) hJd
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:173]: I would suggest merging these two directly into a `HasBasis` statement such as:
```lean
lemma hasBasis_nhds_zero [IsLinearTopology R R] [IsLinearTopology Rᵐᵒᵖ R] :
    (𝓝 0 : Filter (MvPowerSeries σ R)).HasBasis
      (fun Id : TwoSidedIdeal R × (σ →₀ ℕ) ↦ (Id.1 : Set R) ∈ 𝓝 0)
      (fun Id ↦ basis _ _ Id) := by
  sorry
```

The first reason is that these tend to be easier to use given the API around filter bases. But the main reason I had in mind is that it's supposed to be easier to *prove*, mostly thanks to [Filter.HasBasis.to_hasBasis](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/Bases.html#Filter.HasBasis.to_hasBasis) which gives a clean way to turn one basis into another.

Unfortunately, it turns out that this approach is still a bit annoying because we do not have the "indexed product" version of [Filter.HasBasis.prod_self](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/Bases.html#Filter.HasBasis.prod_self), which means that you have to do the work of intersecting a bunch of ideals. 

To make that simpler, I will open a PR adding the following right after [Filter.hasBasis_pi](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/Pi.html#Filter.hasBasis_pi):
```lean
theorem hasBasis_pi_same_index {κ : Type*} {p : κ → Prop} {s : Π i : ι, κ → Set (α i)}
    (h : ∀ i : ι, (f i).HasBasis p (s i))
    (h_dir : ∀ I : Set ι, ∀ k : ι → κ, I.Finite → (∀ i ∈ I, p (k i)) →
      ∃ k₀, p k₀ ∧ ∀ i ∈ I, s i k₀ ⊆ s i (k i)) :
    (pi f).HasBasis (fun Ik : Set ι × κ ↦ Ik.1.Finite ∧ p Ik.2)
      (fun Ik ↦ Ik.1.pi (fun i ↦ s i Ik.2)) := by
  refine hasBasis_pi h |>.to_hasBasis ?_ ?_
  · rintro ⟨I, k⟩ ⟨hI, hk⟩
    rcases h_dir I k hI hk with ⟨k₀, hk₀, hk₀'⟩
    exact ⟨⟨I, k₀⟩, ⟨hI, hk₀⟩, Set.pi_mono hk₀'⟩
  · rintro ⟨I, k⟩ ⟨hI, hk⟩
    exact ⟨⟨I, fun _ ↦ k⟩, ⟨hI, fun _ _ ↦ hk⟩, subset_rfl⟩

theorem HasBasis.pi_self {α : Type*} {κ : Type*} {f : Filter α} {p : κ → Prop} {s : κ → Set α}
    (h : f.HasBasis p s) :
    (pi fun _ ↦ f).HasBasis (fun Ik : Set ι × κ ↦ Ik.1.Finite ∧ p Ik.2)
      (fun Ik ↦ Ik.1.pi (fun _ ↦ s Ik.2)) := by
  refine hasBasis_pi_same_index (fun _ ↦ h) (fun I k hI hk ↦ ?_)
  rcases h.mem_iff.mp (biInter_mem hI |>.mpr fun i hi ↦ h.mem_of_mem (hk i hi))
    with ⟨k₀, hk₀, hk₀'⟩
  exact ⟨k₀, hk₀, fun i hi ↦ hk₀'.trans (biInter_subset_of_mem hi)⟩
```

This allows the following proof:
```lean
lemma hasBasis_nhds_zero [IsLinearTopology R R] [IsLinearTopology Rᵐᵒᵖ R] :
    (𝓝 0 : Filter (MvPowerSeries σ R)).HasBasis
      (fun Id : TwoSidedIdeal R × (σ →₀ ℕ) ↦ (Id.1 : Set R) ∈ 𝓝 0)
      (fun Id ↦ basis _ _ Id) := by
  rw [nhds_pi]
  refine IsLinearTopology.hasBasis_twoSidedIdeal.pi_self.to_hasBasis ?_ ?_
  · intro ⟨D, I⟩ ⟨hD, hI⟩
    refine ⟨⟨I, Finset.sup hD.toFinset id⟩, hI, fun f hf d hd ↦ ?_⟩
    rw [SetLike.mem_coe, mem_basis_iff] at hf
    convert hf _ <| Finset.le_sup (hD.mem_toFinset.mpr hd)
  · intro ⟨I, d⟩ hI
    refine ⟨⟨Iic d, I⟩, ⟨finite_Iic d, hI⟩, ?_⟩
    simpa [basis, coeff_apply, Iic, pi] using subset_rfl
```

Does that make sense?

Comment (ADedecker) [reply Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:173]: The PR is #20946

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean [hunk 2]
```diff
@@ -0,0 +1,203 @@
...
+  · exact fun hf hg e he ↦ by rw [map_add]; exact add_mem (hf e he) (hg e he)
+  · exact fun {f} hf e he ↦ by simp only [map_neg, neg_mem, hf e he]
+  · exact fun {f g} hg e he ↦ by
+      classical
+      rw [coeff_mul]
+      apply sum_mem
+      rintro uv huv
+      apply TwoSidedIdeal.mul_mem_left
+      exact hg _ (le_trans (le_iff_exists_add'.mpr
+        ⟨uv.fst, (Finset.mem_antidiagonal.mp huv).symm⟩) he)
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:47]: Am I right that this can be simplified using [Finset.antidiagonal.fst_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Antidiag/Prod.html#Finset.antidiagonal.fst_le) or [Finset.antidiagonal.snd_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Antidiag/Prod.html#Finset.antidiagonal.snd_le)?

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean [hunk 3]
```diff
@@ -0,0 +1,203 @@
...
+
+/-- If `J ≤ K` and `e ≤ d`, then we have the inclusion of twosided ideals
+`basis σ R ⟨J, d⟩ ≤ basis σ R ⟨K, e,>`. -/
+theorem basis_le {Jd Ke : TwoSidedIdeal R × (σ →₀ ℕ)} (hJK : Jd.1 ≤ Ke.1) (hed : Ke.2 ≤ Jd.2) :
+    basis σ R Jd ≤ basis σ R Ke :=
+  fun _ ↦ forall_imp (fun _ h hue ↦ hJK (h (le_trans hue hed)))
+
+/-- `basis σ R ⟨J, d⟩ ≤ basis σ R ⟨K, e⟩` if and only if `J ≤ K` and `e ≤ d`. -/
+theorem basis_le_iff {J K : TwoSidedIdeal R} {d e : σ →₀ ℕ} (hK : K ≠ ⊤) :
+    basis σ R ⟨J, d⟩ ≤ basis σ R ⟨K, e⟩ ↔ J ≤ K ∧ e ≤ d := by
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:72]: What is the use case for this theorem? It seems to me that we would always use the easy direction `basis_le` instead, but I may be missing something.

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean [hunk 4]
```diff
@@ -0,0 +1,203 @@
...
+
+- `MvPowerSeries.basis`: the ideals of the ring of multivariate power series
+all coefficients the exponent of which is smaller than some bound vanish.
+
+## Instances :
+
+- `MvPowerSeries.isLinearTopology` : if `R` has a linear topology,
+then the product topology on `MvPowerSeries σ R` is a linear topology.
+This applies in particular when `R` has a discrete topology.
+
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:22]: What do you think about adding to the docstring a mention of the following alternative approach?

If we had an analogue of [PolynomialModule](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Module/Basic.html#PolynomialModule) for power series, meaning that we could consider the `R[[X]]`-module `M[[X]]` when `M` is an `R`-module, one could prove that `M[[X]]` is linearly topologized over `R[[X]]` if `M` is over `R`. To recover the ring case, it would remain to show that the isomorphism between `Rᵐᵒᵖ[[X]]` and `R[[X]]ᵐᵒᵖ` identifies their respective actions on `R[[X]]`.

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:173]: As soon as you make requests and fulfill them yourself, I would be a fool to start contradicting you.

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:72]: Unclear.

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean (hunk 4 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:22]: Is it really the same as the stuff above, which says that `R[[X]]` is linearly topologised over `R`?

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean [hunk 5]
```diff
@@ -0,0 +1,203 @@
...
+variable [TopologicalSpace R]
+
+-- We endow MvPowerSeries σ R with the product topology.
+open WithPiTopology
+
+variable (σ R) in
+theorem ringSubgroupsBasis :
+    RingSubgroupsBasis (fun (Jd : {J : TwoSidedIdeal R | (J : Set R) ∈ 𝓝 0} × (σ →₀ ℕ))
+        ↦ (basis σ R ⟨Jd.1, Jd.2⟩).asIdeal.toAddSubgroup) where
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:113]: Unclear

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:173]: There are two possibilities.
1. Merge the present PR first, and use your second PR to say things in a better way.
2. Have your #20946 merged, and then I'll adjust.
In any case, it's your move!

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean (hunk 4 above)
Comment (ADedecker) [reply Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:22]: Your PR proves that `R[[X]]` is linearly topologized over `R[[X]]`, not only `R`, right?

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:22]: Insert the meme by Anouk Ricard

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean [hunk 6]
```diff
@@ -0,0 +1,203 @@
...
+namespace MvPowerSeries
+
+namespace LinearTopology
+
+open scoped Topology
+
+open Set SetLike
+
+/-- The underlying family for the basis of ideals in a multivariate power series ring. -/
+def basis (σ : Type*) (R : Type*) [Ring R] (Jd : TwoSidedIdeal R × (σ →₀ ℕ)) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:34]: Is it possible to give the definition in term mode? (Of course the proofs can be in tactic mode).

**Review by riccardobrasca — COMMENTED** [review]
The word "discrete" only appears in the docs but never in the code. Am I missing something?

**Comment by AntoineChambert-Loir** [comment]
Because the initial proof was restricted to that case, but the present statement is more general. I'll edit the docstring.

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:121]: I delete it.

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean]: yep

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean]: and the next one too.

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean [hunk 7]
```diff
@@ -0,0 +1,181 @@
...
+  when the ring of coefficients has a linar topology. -/
+instance [IsLinearTopology R R] [IsLinearTopology Rᵐᵒᵖ R] :
+    IsLinearTopology (MvPowerSeries σ R) (MvPowerSeries σ R) :=
+  IsLinearTopology.mk_of_hasBasis'  _ (hasBasis_nhds_zero) TwoSidedIdeal.mul_mem_left
+
+/-- The topology on `MvPowerSeries` is a right linear topology
+  when the ring of coefficients has a linear topology. -/
+instance [IsLinearTopology R R] [IsLinearTopology Rᵐᵒᵖ R] :
+    IsLinearTopology (MvPowerSeries σ R)ᵐᵒᵖ (MvPowerSeries σ R) :=
+  IsLinearTopology.mk_of_hasBasis'  _ (hasBasis_nhds_zero) TwoSidedIdeal.opp_smul_mem
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:177]: Can you use [TwoSidedIdeal.mul_mem_right](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/TwoSidedIdeal/Basic.html#TwoSidedIdeal.mul_mem_right) instead of the new lemma? Maybe you'd have to switch the order of the arguments.

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:177]: I could, this needs to write the full (fun _ _ _ _ _  mapsto ...). Is it better?

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean [hunk 8]
```diff
@@ -0,0 +1,181 @@
+/-
+Copyright (c) 2024 Antoine Chambert-Loir, María Inés de Frutos-Fernández. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Antoine Chambert-Loir, María Inés de Frutos-Fernández
+-/
+import Mathlib.Data.Finsupp.Interval
+import Mathlib.RingTheory.MvPowerSeries.PiTopology
+import Mathlib.Topology.Algebra.LinearTopology
+import Mathlib.Topology.Algebra.Nonarchimedean.Bases
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:9]:
```suggestion
```

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean [hunk 9]
```diff
@@ -0,0 +1,180 @@
...
+
+/-! # Linear topology on the ring of multivariate power series
+
+- `MvPowerSeries.LinearTopology.basis`: the ideals of the ring of multivariate power series
+all coefficients the exponent of which is smaller than some bound vanish.
+
+- `MvPowerSeries.LinearTopology.basis_mem_nhds_zero` :
+  the two-sided ideals from `MvPowerSeries.LinearTopology.basis` are neighborhoods of `0`.
+
+- `MvPowerSeries.LinearTopology.hasBasis_twoSidedIdeal` :
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:19]:
```suggestion
- `MvPowerSeries.LinearTopology.hasBasis_nhds_zero` :
```

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean [hunk 10]
```diff
@@ -0,0 +1,180 @@
...
+      rw [eq_top_iff]
+      intro a _
+      specialize h (monomial R e a) _
+      · intro e' he'
+        convert zero_mem J
+        apply coeff_monomial_ne
+        rintro ⟨rfl⟩
+        exact h' (right_eq_inf.mpr he').symm
+      · specialize h e (le_refl e)
+        rwa [coeff_monomial_same] at h
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:115]:
```suggestion
  classical
  constructor
  · simp only [basis, TwoSidedIdeal.le_iff, TwoSidedIdeal.coe_mk', setOf_subset_setOf]
    intro h
    constructor
    · intro x hx
      have (d') : coeff R d' (C σ R x) ∈ J := by
        rw [coeff_C]; split_ifs <;> [exact hx; exact J.zero_mem]
      simpa using h (C σ R x) (fun _ _ ↦ this _) _ (zero_le _)
    · by_contra h'
      apply hK
      rw [eq_top_iff]
      intro x _
      have (d') (hd'_le : d' ≤ d) : coeff R d' (monomial R e x) ∈ J := by
        rw [coeff_monomial]
        split_ifs with hd' <;> [exact (h' (hd' ▸ hd'_le)).elim; exact J.zero_mem]
      simpa using h (monomial R e x) this _ le_rfl
```

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean [hunk 11]
```diff
@@ -0,0 +1,180 @@
...
+    simp only [Submodule.coe_toAddSubgroup, TwoSidedIdeal.coe_asIdeal,
+      mem_coe, sub_zero, mem_basis_iff] at hg ⊢
+    classical
+    rw [coeff_mul]
+    apply sum_mem
+    rintro ⟨i, j⟩ h
+    apply TwoSidedIdeal.mul_mem_right
+    apply hg i (le_trans ?_ he)
+    simp only [← Finset.mem_antidiagonal.mp h, le_self_add]⟩
+-/
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:147]: Don't forget to remove this before merging

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean [hunk 12]
```diff
@@ -0,0 +1,180 @@
...
+      rintro uv huv
+      exact TwoSidedIdeal.mul_mem_right _ _ _ (hf _ (le_trans (Finset.antidiagonal.fst_le huv) he)))
+
+variable {σ : Type*} {R : Type*} [Ring R]
+
+/-- A power series `f` belongs to the twosided ideal `basis σ R ⟨J, d⟩`
+if and only if `coeff R e f ∈ J` for all `e ≤ d`. -/
+theorem mem_basis_iff {f : MvPowerSeries σ R} {Jd : TwoSidedIdeal R × (σ →₀ ℕ)} :
+    f ∈ basis σ R Jd ↔ ∀ e ≤ Jd.2, coeff R e f ∈ Jd.1 := by
+  simp [basis]
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:76]:
```suggestion
    f ∈ basis σ R Jd ↔ ∀ e ≤ Jd.2, coeff R e f ∈ Jd.1 := 
  Iff.rfl
```
(untested)

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean [hunk 13]
```diff
@@ -0,0 +1,180 @@
...
+import Mathlib.Topology.Algebra.LinearTopology
+import Mathlib.RingTheory.TwoSidedIdeal.Operations
+
+/-! # Linear topology on the ring of multivariate power series
+
+- `MvPowerSeries.LinearTopology.basis`: the ideals of the ring of multivariate power series
+all coefficients the exponent of which is smaller than some bound vanish.
+
+- `MvPowerSeries.LinearTopology.basis_mem_nhds_zero` :
+  the two-sided ideals from `MvPowerSeries.LinearTopology.basis` are neighborhoods of `0`.
```
Comment (ADedecker) [inline Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:17]: Unless I'm missing something, this is no longer here. You could either remove this mention from the docstring, or add it back as a one-line consequence of the basis statement (using [Filter.HasBasis.mem_of_mem](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/Bases.html#Filter.HasBasis.mem_of_mem)).

**Review by ADedecker — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean (hunk 7 above)
Comment (ADedecker) [reply Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean]: I wouldn't say it's better, but it doesn't justify essentially duplicating the existing lemma.

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean (hunk 11 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:147]: ;-)

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean (hunk 12 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:76]: doesn't work…

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean (hunk 13 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:17]: I replaced that docstring with the one mentioning hasBasis_nhds_zero.

File: Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean (hunk 12 above)
Comment (ADedecker) [reply Mathlib/RingTheory/MvPowerSeries/LinearTopology.lean:76]: Then the current proof is perfect.
